US04062848
2-methyl-1,2,3,4,10,14b-hexahydro-benzo[c]pyrazino[1,2-a]pyrido[2,3-f]azepine.
1.46 g (0.005 mol) 2-methyl-3,4-dioxo-1,2,3,4,10,14b-hexahydro-benzo[c]pyrazino[1,2-a]pyrido[2,3-f]azepine is added cautiously to a suspension of 0.4 g LiAlH4 in 25 ml dry dioxan under nitrogen at 25° C. The reaction mixture is boiled under reflux for 2 hours, after which it is cooled to 15° C. 5 ml water is then added, and the inorganic salts are filtered off and rinsed with dioxan. The filtrate is evaporated to dryness, giving a yellow oil. Melting point maleate salt: 163°-164° C (dec.).

reactant | 2-methyl-3,4-dioxo-1,2,3,4,10,14b-hexahydro-benzo[c]pyrazino[1,2-a]pyrido[2,3-f]azepine | 0.005 mol, 1.46 g | CN1CC2N(C3=C(CC4=C2C=CC=C4)N=CC=C3)C(C1=O)=O | C17H15N3O2
reactant | LiAlH4 | 0.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 5 ml | O | H2O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-1,2,3,4,10,14b-hexahydro-benzo[c]pyrazino[1,2-a]pyrido[2,3-f]azepine | CN1CC2N(C3=C(CC4=C2C=CC=C4)N=CC=C3)CC1 | C17H19N3
